US09193669B2
Oxidation of tert-butyl 3-hydroxy-3-(3-(1-propylbutylsulfonamido)phenyl)propylcarbamate by PCC following the method used in Example 16 gives tert-butyl 3-oxo-3-(3-(1-propylbutylsulfonamido)phenyl)propylcarbamate.

reactant | tert-butyl 3-hydroxy-3-(3-(1-propylbutylsulfonamido)phenyl)propylcarbamate | OC(CCNC(OC(C)(C)C)=O)C1=CC(=CC=C1)NS(=O)(=O)C(CCC)CCC | C21H36N2O5S
reactant | PCC | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
product | tert-butyl 3-oxo-3-(3-(1-propylbutylsulfonamido)phenyl)propylcarbamate | O=C(CCNC(OC(C)(C)C)=O)C1=CC(=CC=C1)NS(=O)(=O)C(CCC)CCC | C21H34N2O5S
